US04732998
(Phenoxymethylene)-bisphosphonic acid
A mixture of tetraethyl (phenoxymethylene)-bisphosphonate (20 g) and 6N hydrochloric acid (150 ml) was refluxed overnight and the resulting solution was evaporated to dryness in vacuo. Residual hydrochloric acid was removed by repeated evaporation with absolute ethanol. The residue was taken up in acetone (7 ml) and ether (200 ml) was added. The crystalline product was filtered, washed with ether and dried in vacuo.

reactant | tetraethyl (phenoxymethylene)-bisphosphonate | 20 g | O(C1=CC=CC=C1)C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C15H26O7P2
solvent | hydrochloric acid | 6N, 150 ml | Cl | ClH
product | (Phenoxymethylene)-bisphosphonic acid | O(C1=CC=CC=C1)C(P(O)(O)=O)P(O)(O)=O | C7H10O7P2
